US04510136
Preparation of (2,4-Dichlorophenyl)dimethyl(1H-1,2,4-triazol-1-ylmethyl)silane
A mixture of 5.1 g (0.020 mol) of chloromethyl(2,4-dichlorophenyl)dimethysilane and 2.0 g (0.022 mol) of 1,2,4-triazole sodium salt in 10 ml of dry dimethylformamide was stirred at 80°-90° for 2 hours. The resulting slurry was cooled, diluted with water, and washed with ether. The ether extracts were washed with several portions of water and once with brine, dried over magnesium sulfate, and evaporated to leave 4.6 g (81%) of the title compound as a pale yellow liquid: nD23 1.5580; ir (neat) 1550, 1485, 1440, 1345, 1260, 1240, 1130, 1085, 1025, 1005, 835 cm-1 ; nmr (CDCl3) 0.5 (6H, s), 4.1 (2H, s), 7.2-7.5 (3H, m), 7.8 (1H, s), 7.9 (1H, s).

reactant | chloromethyl(2,4-dichlorophenyl)dimethysilane | 0.020 mol, 5.1 g | ClC[Si](C)(C)C1=C(C=C(C=C1)Cl)Cl | C9H11Cl3Si
reactant | 1,2,4-triazole sodium salt | 0.022 mol, 2.0 g | [Na].N1N=CN=C1
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2,4-Dichlorophenyl)dimethyl(1H-1,2,4-triazol-1-ylmethyl)silane | 4.6 g, 81% | ClC1=C(C=CC(=C1)Cl)[Si](CN1N=CN=C1)(C)C | C11H13Cl2N3Si
